US08389728B2
2. 2-Methylsulfinyldecahydroisoquinoline (Compound B)
A solution of decahydroisoquinoline (1.16 g, 8.33 mmol) and triethylamine (1.1 g, 10.9 mmol) in anhydrous dichloromethane (20 mL) was cooled in a dry ice/acetone bath. The reaction mixture was treated with methanesulfinyl chloride (1.1 g, 11.2 mmol) dropwise. The reaction mixture was stirred and warmed to room temperature. After 5 h, the reaction mixture was filtered through Celite®. The filtrate was collected, washed with water (1×20 mL), dried (MgSO4) and concentrated in vacuo. Flash chromatography (SiO2, ethyl acetate eluant) afforded the product as a white solid (1.0 g, 60%) mp XX ° C.: 1H NMR (CDCl3, 600 MHz, δ) 3.39-3.34 (m, 1H, C1-H), 3.22-3.15 (m, 1H, C1-H), 2.90-2.85 and 2.73-2.68 (m, 1H, C-3H), 2.51-2.47 (m, 0.5H, C3-H) and 2.34 (t, 0.5H, J=11 Hz, C3-H), 2.51 (s, 1.5H, C1′-H) and 2.50 (s, 1.5H, C1′-H), 1.69-1.49 (m, 5H), 1.29-1.13 (m, 4H), 0.96-0.86 (m, 3H); 13C NMR (CDCl3, 125 MHz, δ) 54.3, 49.3, 48.4, 43.3, 42.4, 41.7, 41.6, 41.5, 39.14, 39.05, 38.95, 38.88, 33.2, 32.7, 32.6, 30.2, 30.1, 26.13, 26.12, 25.76, 25.71; ESIMS m/z 204.1 (5, 32S), 203.0 (13, 13C), 202.0 (base, MH+); ESIHRMS m/z 202.1260 (calculated for C10H20NOS 202.1260).

reactant | decahydroisoquinoline | 8.33 mmol, 1.16 g | C1NCCC2CCCCC12 | C9H17N
reactant | triethylamine | 10.9 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfinyl chloride | 11.2 mmol, 1.1 g | CS(=O)Cl | CH3ClOS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Methylsulfinyldecahydroisoquinoline | 1.0 g, 60% | CS(=O)N1CC2CCCCC2CC1 | C10H19NOS
